Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
barium sulfate / codeine / dextromethorphan / iv contrast
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, elevated liver enzymes
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is ___ yo female with a history of non-alcoholic 
fatty liver disease. She was sent in by Dr. ___ evaluation 
of acute hepatitis, nausea, vomiting, and poor PO intake. Per 
patient, she has had 1 week of poor po intake worse than 
baseline gastroparesis, not able to take even full liquids in 
the last 6 days. Also with new RUQ pain which is sharp and 
severe radiating to her back. She denies EtOH use, IVDU. 

She also denies any new medications, or supplements. Is shown to 
be immune to HAV and HBV. 

She was recently seen in ___ clinic on ___ with the 
following note: She did suffer from a viral gastroenteritis this 
past ___, which appears to have been complicated by 
viral-induced gastroparesis, which had led to significant 
nausea, vomiting, and bloating.  She has been attempting more of 
a liquid diet and states that she has been able to progress her 
diet slowly.  With this intervention, she states that her nausea 
and vomiting have been somewhat limited compared to before.  She 
did end up having a gastric emptying study on ___, which 
did show delayed gastric emptying at three and four hours with 
residual primarily in the gastric fundus, and the patient was 
symptomatic during this study as well.  In addition, she 
endorsed constipation and left-sided abdominal cramps.  She was 
prescribed metoclopramide for her symptoms during her last 
visitation with her hepatologist, however, she has not been 
taking this for the fear of developing side effects. 
 
Past Medical History:
Nonalcoholic fatty liver disease supported by biopsy on ___.
Possible metabolic myopathy causing exercise intolerance
Anxiety
PTSD ___ childhood sexual abuse
Migraines with aura (Dx ___
Pulmonary nodule per CT Chest
Fibromyalgia
Visual snow syndrome (Dx ___, followed with Neuro-Opthalmology
at ___)
Iron deficiency without anemia
herniated discs in her lower back
h/o GIB
h/o dysphagia
possible PFO
coronary artery fistula (LAD to PAD coronary fistula diagnosed 
at
cath in ___, followed by Cardiology at ___)
GERD
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
============================
VS:  98.6 PO 125 / 78 84 16 96 RA 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: obese, tender to light palpation in RUQ. +BS, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM
======================
VS:  97.7 PO ___ 18 97 ra  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: obese, tender to light palpation in RUQ. +BS, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
ADMISSION LAB RESULTS
====================
___ 02:00PM BLOOD WBC-8.8 RBC-5.70* Hgb-15.2 Hct-47.8* 
MCV-84 MCH-26.7 MCHC-31.8* RDW-17.6* RDWSD-53.4* Plt ___
___ 04:35PM BLOOD Glucose-76 UreaN-12 Creat-0.9 Na-136 
K-3.7 Cl-100 HCO3-19* AnGap-21*
___ 02:00PM BLOOD ALT-1233* AST-786* CK(CPK)-88 AlkPhos-81 
TotBili-1.5
___ 06:21AM BLOOD Calcium-8.7 Phos-2.4* Mg-1.9

PERTINENT LAB RESULTS
====================
___ 02:00PM BLOOD ALT-1233* AST-786* CK(CPK)-88 AlkPhos-81 
TotBili-1.5
___ 04:35PM BLOOD ALT-1053* AST-619* AlkPhos-74 TotBili-1.5
___ 06:21AM BLOOD ALT-846* AST-493* AlkPhos-68 TotBili-1.6*
___ 05:44AM BLOOD ALT-747* AST-374* AlkPhos-71 TotBili-0.9

DISCHARGE LAB RESULTS
====================
___ 06:21AM BLOOD WBC-5.0 RBC-4.76 Hgb-13.1 Hct-40.4 MCV-85 
MCH-27.5 MCHC-32.4 RDW-17.7* RDWSD-54.1* Plt ___
___ 06:21AM BLOOD ___ PTT-24.7* ___
___ 05:44AM BLOOD Glucose-89 UreaN-<3* Creat-0.7 Na-141 
K-4.3 Cl-107 HCO3-24 AnGap-14
___ 05:44AM BLOOD Calcium-8.9 Phos-2.6* Mg-1.9

MICROBIOLOGY
===========
___ - Blood Culture - pending
___ - Urine culture - negative

IMAGING
======
___ (before hospitalization) RUQ Ultrasound:
Echogenic liver consistent with steatosis.

 
Brief Hospital Course:
The patient is ___ yo female with a history of non-alcoholic 
fatty liver disease who presented with worsening nausea, 
abdominal pain and acute transaminase elevation of uncertain 
etiology. She improved with IV fluid hydration and was able to 
tolerate adequate nutrition with improvement in her 
transaminases. 

# Hepatitis: The etiology of her hepatitis is unclear. The 
patient is immunized against hepatitis A and B. Hepatitis C 
antibody was negative. Hepatitis C viral load and Hepatitis E 
IgG and IgM were pending at time of discharge. Serum toxicology 
screen was negative. ___ and ___ were also negative. Her liver 
enzymes continued to trend down over the course of the 
hospitalization and her abdominal pain improved. She will get 
repeat lab work checked on ___ or ___. These will be faxed to 
___ at ___. She has close 
follow up with Dr. ___ on ___.

# Gastroparesis: Patient has a diagnosis of possible 
viral-induced gastroparesis. On presentation, she had not had an 
episode of vomiting since ___, but she had poor PO intake 
since ___. Her electrolytes were within normal limits, and a 
lactate was normal. She did not require any medication for 
nausea control. Over the course of the hospitalization she 
received 3L of IV fluid. Her diet was slowly advanced from clear 
liquids. On day of discharge, she was able to tolerate small 
bites of solids. She had less than 12 hours of non-bloody 
diarrhea in the setting of a liquid diet that resolved a single 
dose of loperamide. No diarrhea on the day of discharge. Low 
suspicion for C. diff and given quick resolution and no 
leukocytosis, a sample was not obtained. Patient instructed to 
continue challenging herself with diet and go back to liquid 
diet if she develops pain or nausea.

TRANSITIONAL ISSUES
==================
- Hep C viral load and Hep E antibodies were pending at time of 
discharge. 
- Follow up with Hepatologist Dr. ___ as above.

# CODE STATUS: Full
# CONTACT: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO DAILY 
2. Naproxen 500 mg PO Q8H:PRN headache 
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. levonorgestrel-ethinyl estrad unsure  oral DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID:PRN constipation  
2.  levonorgestrel-ethinyl estrad unsure unsure oral DAILY  
3.  Naproxen 500 mg PO Q8H:PRN headache  
4.  Omeprazole 40 mg PO DAILY  
5.Outpatient Lab Work
ICD-10: K75.9 Hepatitis
Please obtain CBC, Chem-10, AST, ALT, T. bili, alk phos. Fax 
results to: ___, ___, ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Acute hepatitis of uncertain etiology
 
Secondary Diagnosis:
- Gastroparesis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
 
You were hospitalized at ___.
 
Why did you come into the hospital?
===========================
- You were sent into the hospital for abdominal pain, nausea, 
and elevation of your liver enzymes.
 
What did we do for you?
=================
- We gave you IV fluids and we slowly advanced your diet
- We monitored your liver enzymes, and they gradually came down 
over the course of the hospitalization. 
 
What do you need to do?
==================
- It is important that you get lab work completed at a lab close 
to your home on ___ or ___. The lab should fax the results to 
___ ___. 
- It is important that you follow-up at the ___ 
on ___ (appointment information below). 
- It is important that you slowly continue to advance your diet 
as tolerated. If you have pain or nausea, go back to a liquid 
diet until you feel like trying to eat again.
 
It was a pleasure caring for you. We wish you the best!
 
Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___